2137-03-30 07:08:00 Physician Resident Progress Note
Chief Complaint: 32 year old woman with hx of mental retardation
   secondary to Retts syndrome, gastrocutaneous fistula s/p ex-lap and
   takedown now with hypotension and acute Hct drop
   24 Hour Events:
 MULTI LUMEN - START [**2137-3-29**] 04:27 PM
   - Treating pain prn morphine
   - S/p 3u prbcs with appropriate and stable bump in Hct
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-29**] 08:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2137-3-30**] 02:17 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2137-3-29**] 11:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-30**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 123 (115 - 138) bpm
   BP: 145/78(91) {125/53(72) - 194/112(129)} mmHg
   RR: 21 (4 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 19 (10 - 25)mmHg
   Total In:
                                                                  3,045 mL
                                                                    270 mL
   PO:
   TF:
   IVF:
                                                                    420 mL
                                                                    270 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  1,149 mL
                                                                    540 mL
   Urine:
                                                                    475 mL
                                                                    390 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,896 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: contracted
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, red skin surrounding
   surgical site
   Extremities: Right: Edema Trace, Left: Trace, contracted feet
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful
   Labs / Radiology
   297
   121
   1.1
   26
   3.9
   24
   110
   144
   34.1 %
   15.5
        [image002.jpg]
   Vanc 39.6
   INR 1.4
   Phenytoin: pending
                             [**2137-3-29**]  05:05 PM
                             [**2137-3-29**]  07:20 PM
                             [**2137-3-30**]  01:11 AM
   Hct
   32.9
   35.9
   33.7
   Imaging: CXR [**3-29**]: No acute processes
   Microbiology: Bcx x4: NGTD
   Urine cx: Yeast <100,000 organisms
   Assessment and Plan
   32 year old woman with hx of mental retardation secondary to Retts
   syndrome, gastrocutaneous fistula s/p ex-lap and takedown now with
   hypotension and acute Hct drop.
   # Hypotension: Resolved. Likely from acute blood loss in or around her
   gastrostomy site complicated by oversedated. No evidence of more distal
   GI bleeding.  Afebrile with negative micro to date make sepsis
   relatively unlikely. Also in absence of respiratory compromise unlikely
   PE.
   - Hct improved wtih 3 units of pRBCs (has been stable around 33)
   - If Hct falls again with no response to pRBC may benefit from
   take-back to OR, will discuss with [**Doctor First Name 458**]
   - Blood cultures x4 NGTD, urine cx with yeast 10-100,000 organisms
   - Guaiac stool x 3
   - CVP monitoring (range of [**9-30**])
   - Vanc/zosyn for now until negative cultures for empiric tx of GI
   pathogen -> Vanc level 39 so discontinued for now, will restart when
   less than 20 if needed.
   # Acute blood loss anemia: Likely from acute blood loss in or around
   gastrostomy site.
   - Continue to follow with surgery
   - Cycle Hcts [**Hospital1 **] for today, transfuse to 30
   # Gastrocutaneous fistula: hold G-tube feeds for now.
   - Continue to follow with surgery
   - Pain control with prn morphine, can consider changing to dilaudid if
   inadequat control being careful not to oversedate.
   # Seizure Disorder: no evidence of active seizures. On Lamictal at
   home, was changed to dilantin as not able to have TF
   - Continue phenytoin until able to use G-tube again at which time will
   return to prior regimen of lamictal
   - Will check phenytoin level
   ICU Care
   Nutrition:
   NPO for now
   Glycemic Control: ISS
   Lines:
   Multi Lumen - [**2137-3-29**] 04:27 PM
   20 Gauge - [**2137-3-29**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:Call out  to surgery as Hct stable after multiple checks

2137-03-30 09:06:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   32 yo female w/Rett's syndrome transferred POD 1 s/p gastrocut.fstula
   w/hypotension and acute blood loss anemia. Had been tachycardic for
   several days but worsened acutely  to P150's, SBP 80's, some improv't
   with blood transfusion. Overnight, had IJ placed
   24 Hour Events:
 MULTI LUMEN - START [**2137-3-29**] 04:27 PM
   History obtained from Medical records, icu housestaff
   Patient unable to provide history: severe mental retardation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-3-30**] 02:17 AM
   Vancomycin - [**2137-3-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2137-3-30**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-30**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 125 (115 - 138) bpm
   BP: 139/74(92) {125/53(72) - 194/112(129)} mmHg
   RR: 18 (4 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 20 (10 - 25)mmHg
   Total In:
                                                                  3,045 mL
                                                                    297 mL
   PO:
   TF:
   IVF:
                                                                    420 mL
                                                                    297 mL
   Blood products:
                                                                  1,125 mL
   Total out:
                                                                  1,149 mL
                                                                    630 mL
   Urine:
                                                                    475 mL
                                                                    480 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,896 mL
                                                                   -333 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Gen:Sitting in bed, appears anxious,
   HEENT: normocephalic, PERRL, poor dentition
   Respiratory: symmetric expansion, clear to ausc bilaterally no
   wheezes/rales
   CV: tachycardic, n
l S1 and S2, no S3, no murmurs
   Abd: mildly distended, +G-tube
   Peripheral Vascular: 1+ DP pulses
   Ext:  1+ edema
   Skin:  Warm, no rashes
   Neurologic: normal movement and tone
   Labs / Radiology
   12.1 g/dL
   297 K/uL
   121 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   24 mg/dL
   110 mEq/L
   144 mEq/L
   34.1 %
   15.5 K/uL
        [image002.jpg]
                             [**2137-3-29**]  05:05 PM
                             [**2137-3-29**]  07:20 PM
                             [**2137-3-30**]  01:11 AM
                             [**2137-3-30**]  05:16 AM
   WBC
   15.5
   Hct
   32.9
   35.9
   33.7
   34.1
   Plt
   297
   Cr
   1.1
   Glucose
   121
   Other labs: PT / PTT / INR:15.9/32.1/1.4
   Assessment and Plan
   32 year old female with Rett's, s/p gastrocut fistula repair
   complicated by post op hypotension and anemia
   #Hyptotension: Improved; suspect combo sedative meds +
   hypotension/acute anemia. Less suspicious for sepsis, can likely dc abx
   in next 24-48 hours. Continue to monitor VS
   *Acute blood loss anemia: No further need for transfusions since last
   night. Source somewhat unclear, but appears to have stopped bleeding.
   #Seizure disorder: transitioned to Dilantin due to no po.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2137-3-29**] 04:27 PM
   20 Gauge - [**2137-3-29**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2137-03-31 07:19:00 Physician Resident Progress Note
Chief Complaint: 32 year old woman with hx of mental retardation
   secondary to Retts syndrome, gastrocutaneous fistula s/p ex-lap and
   takedown now with hypotension and acute Hct drop
   24 Hour Events:
 ULTRASOUND - At [**2137-3-30**] 05:00 PM
   LENI to r/o dvt
   tachycardic ? reason; given dilaudid + ativan without relief, and was
   sleeping
   ? PE-> had recent ct scan lung without evidence of PE (though was not
   CTA)
   sent blood / urine cultures to r/o
   lenis negative for DVT
   also with hypoxia to 90% on RA
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-30**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-3-31**] 01:38 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2137-3-30**] 08:30 AM
   Lorazepam (Ativan) - [**2137-3-30**] 01:00 PM
   Hydromorphone (Dilaudid) - [**2137-3-31**] 04:20 AM
   Other medications:
   Metoprolol 25 TID NGT
   Insulin Sliding scale
   Pantoprazole 40mg IV BID
   Phenytoin 100mg IV Q8
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt non-verbal
   Flowsheet Data as of  [**2137-3-31**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.5
C (99.5
   HR: 119 (111 - 140) bpm
   BP: 155/81(98) {113/53(68) - 168/85(103)} mmHg
   RR: 21 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 22 (15 - 32)mmHg
   Total In:
                                                                    900 mL
                                                                    246 mL
   PO:
   TF:
   IVF:
                                                                    900 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    560 mL
   Urine:
                                                                  1,240 mL
                                                                    560 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -540 mL
                                                                   -314 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   PeriphGeneral Appearance: tachypneic, grunting, appears uncomfortable
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, MM dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Moderate distention, bowel sounds absent, erythemay around
   surgical site, no increased warmth or drainage.  Appears tender
   Extremities: Right: Edema Trace, Left: Trace, contracted feet
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Does not respond to comands, some groaning/grunting, moving
   all extremities.
   Labs / Radiology
   249 K/uL
   11.1 g/dL
   80 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.3 mEq/L
   16 mg/dL
   109 mEq/L
   145 mEq/L
   30.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2137-3-29**]  05:05 PM
                             [**2137-3-29**]  07:20 PM
                             [**2137-3-30**]  01:11 AM
                             [**2137-3-30**]  05:16 AM
                             [**2137-3-30**]  02:47 PM
                             [**2137-3-30**]  10:00 PM
                             [**2137-3-31**]  03:52 AM
   WBC
   15.5
   13.8
   12.5
   Hct
   32.9
   35.9
   33.7
   34.1
   31.8
   30.4
   30.9
   Plt
   297
   278
   249
   Cr
   1.1
   1.1
   Glucose
   121
   80
   Other labs: PT / PTT / INR:16.9/31.2/1.5, Ca++:7.6 mg/dL, Mg++:1.7
   mg/dL, PO4:2.7 mg/dL
   Micro: [**3-26**] and [**3-12**] urine cultures growing yeast.  With positive UA,
   negative blood cultures.
   Assessment and Plan
   32 year old woman with hx of mental retardation secondary to Retts
   syndrome, gastrocutaneous fistula s/p ex-lap and takedown now with
   hypotension and acute Hct drop.
   #Tachycardia.  Ddx includes pain, anxiety, infection, PE.  Difficult to
   assess pain control as pt is non-verbal but in setting of  new
   hypertension and apparent agitation, seems reasonable to assume pain is
   not well controlled.  B/L LENIs negative for DVT, PE less likely, would
   not be candidate for anticoagulation at this point given recent bleed.
   Pt is hypoxic with RA sats in 90s.  CXR no evidence for PNA.  Possible
   pt is splinting due to abd pain, or has atelectasis.
   -Have increased dilaudid to increased pain control
   -BB TID per surgical recs.
   -supplemental 02 PRN
   -continue pneumoboots for DVT ppx.
   # Hypotension: Resolved. Likely from acute blood loss in or around her
   gastrostomy site complicated by oversedated. No evidence of more distal
   GI bleeding.  Also on ddx for hypotension include sepsis, sources
   include surgical, urine, lungs.  CXR/CT without evidence for PNA, PE.
   - Hct improved wtih 3 units of pRBCs (has been stable around 33),
   however down to 30.9 this am, ~1point drop from yesterday.
   - Will continue to trend HCT
   - Blood cultures x4 NGTD, urine cx with yeast 10-100,000 organisms on
   two samples with a positive UA.
   - Guaiac stool x 3
   - CVP monitoring (range of [**9-30**])
   - Got vanc and zosyn initially for empiric coverage, continued on zosyn
   since [**3-29**] for empiric coverage of GI pathogen.  No growth on blood
   cultures.
   # Acute blood loss anemia: Likely from acute blood loss in or around
   gastrostomy site.
   - Continue to follow with surgery
   - Cycle Hcts [**Hospital1 **] for today, transfuse to 30
   # Gastrocutaneous fistula: Restart TF today, hold for residuals
   - Continue to follow with surgery
   - Pain control with prn dilaudid.
   #UTI.  Pt had positive UA, cultures grew yeast while on vanc/zosyn.
   -continue to cover broadly for infection with zosyn for urine and
   possible abdominal pathogen in post-operative setting
   -consider narrowing to CTX pending blood culture data to cover for 7
   day course UTI
   -Foley changed.
   # Seizure Disorder: no evidence of active seizures. On Lamictal at
   home, was changed to dilantin as not able to have TF
   - Continue phenytoin until able to use G-tube again at which time will
   return to prior regimen of lamictal
   - Will check phenytoin level, was subtherapeutic on [**3-29**], recheck
   tomorrow.  [**Month (only) 60**] need to increase dose, or if G-tube functioning can
   restart lamictal.
   ICU Care
   Nutrition:
   NPO for now, TPN and starting TF
   Glycemic Control: ISS
   Lines:
   Multi Lumen - [**2137-3-29**] 04:27 PM
   20 Gauge - [**2137-3-29**] 04:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:Call out  to surgery as Hct stable after multiple checks,
   possibly in am

2137-03-31 11:38:00 Physician Attending Progress Note
Chief Complaint: asthma exacerbation
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt with asthma, SDB on CPAP 12, admitted with asthma exacerbation
   24 Hour Events:
 ULTRASOUND - At [**2137-3-30**] 05:00 PM
   LENI to r/o dvt
   Inhalers changed, steroids weaned. Used PAP overnight. This morning on
   nc only.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-30**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-3-31**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2137-3-30**] 01:00 PM
   Hydromorphone (Dilaudid) - [**2137-3-31**] 09:30 AM
   Other medications:
   [**Doctor First Name **], vit D, ca carbonate, protonix, singulair, provigil, alb atrov,
   prozac, diltizzem, SSI, solumedrol, spiriva, advair
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-31**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 109 (105 - 140) bpm
   BP: 151/93(106) {113/53(68) - 168/93(106)} mmHg
   RR: 24 (17 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 21 (17 - 32)mmHg
   Total In:
                                                                  1,400 mL
                                                                    592 mL
   PO:
   TF:
   IVF:
                                                                  1,400 mL
                                                                    477 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    810 mL
   Urine:
                                                                  1,240 mL
                                                                    810 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                   -218 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, still with pursed lip breathing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Wheezes : exp wheezes), fair air movement, though somewhat
   decreased from yesterday
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person place time, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   249 K/uL
   80 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.3 mEq/L
   16 mg/dL
   109 mEq/L
   145 mEq/L
   30.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2137-3-29**]  05:05 PM
                             [**2137-3-29**]  07:20 PM
                             [**2137-3-30**]  01:11 AM
                             [**2137-3-30**]  05:16 AM
                             [**2137-3-30**]  02:47 PM
                             [**2137-3-30**]  10:00 PM
                             [**2137-3-31**]  03:52 AM
   WBC
   15.5
   13.8
   12.5
   Hct
   32.9
   35.9
   33.7
   34.1
   31.8
   30.4
   30.9
   Plt
   297
   278
   249
   Cr
   1.1
   1.1
   Glucose
   121
   80
   Other labs: PT / PTT / INR:16.9/31.2/1.5, Ca++:7.6 mg/dL, Mg++:1.7
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   50 year old female admitted with acute resp distress/asthma
   exacerbation
   Mild improvement over past day, but still requiring frequent nebulizers
   and aeration still limited
   Remains in ICU for high frequency of nebs. Change steroids to Q12h
   dosing
   SDB : continue CPAP
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2137-3-29**] 04:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-03-31 12:06:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   32 yo female with Rett's syndrome s/p gastrocut fisulta complicated by
   post op Hct drop, tachycardia/hypotension
   24 Hour Events:
 Remained tachycardic, unclear etiology. Dilaudid/ativan with no
   change in HR. Prior CT negative for PE, though not a spiral protocol.
   LENI to r/o dvt
   History obtained from Medical records
   Patient unable to provide history: severe MR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-30**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-3-31**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2137-3-30**] 01:00 PM
   Hydromorphone (Dilaudid) - [**2137-3-31**] 09:30 AM
   Other medications:
   Dilantin, protonix, SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-3-31**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 109 (105 - 140) bpm
   BP: 151/93(106) {113/53(68) - 168/93(106)} mmHg
   RR: 24 (17 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 21 (17 - 32)mmHg
   Total In:
                                                                  1,400 mL
                                                                    598 mL
   PO:
   TF:
   IVF:
                                                                  1,400 mL
                                                                    483 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    810 mL
   Urine:
                                                                  1,240 mL
                                                                    810 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                   -212 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended, Feeding tube
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.1 g/dL
   249 K/uL
   80 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.3 mEq/L
   16 mg/dL
   109 mEq/L
   145 mEq/L
   30.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2137-3-29**]  05:05 PM
                             [**2137-3-29**]  07:20 PM
                             [**2137-3-30**]  01:11 AM
                             [**2137-3-30**]  05:16 AM
                             [**2137-3-30**]  02:47 PM
                             [**2137-3-30**]  10:00 PM
                             [**2137-3-31**]  03:52 AM
   WBC
   15.5
   13.8
   12.5
   Hct
   32.9
   35.9
   33.7
   34.1
   31.8
   30.4
   30.9
   Plt
   297
   278
   249
   Cr
   1.1
   1.1
   Glucose
   121
   80
   Other labs: PT / PTT / INR:16.9/31.2/1.5, Ca++:7.6 mg/dL, Mg++:1.7
   mg/dL, PO4:2.7 mg/dL
   Microbiology: Urine culture pending
   Assessment and Plan
   32 yo female with Rett's s/p ex lap for gastrocut fistula complicated
   by hypotension, worsening tachycardia, hct drop.
   1. Hct drop/hypotension: appears to have resolved. Continue to follow
   hct's
   2. Tachycardia: LENI's negative for DVT. Given persistent
   hypoxia/tachycardia, will obtain spiral CT (last CT not done per PE
   protocol)
   3. Gastrocut. fistula : post-op care per Surgery
   4. Seizure: continue dilantin
   5. UTI: On zosyn. UrCx still pending- plan to scale back or adjust
   depending on sensitivities. change Foley.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2137-3-29**] 04:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2137-04-01 07:54:00 Physician Resident Progress Note
Chief Complaint: 32 year old woman with hx of mental retardation
   secondary to Retts syndrome, gastrocutaneous fistula s/p ex-lap and
   takedown now with hypotension and acute Hct drop.
   24 Hour Events:
   -persistently tachycardic yesterday
   -[**Doctor First Name 458**] rec's dilaudid for pain control, BB TID, IVF at maintenance, this
   am recommend CXR and lasix if volume overloaded or CTA for PE if not.
   -continued on Zosyn for UTI/intraabdominal infection.  U cx x 2 growing
   yeast in setting of + UA
   -started TF
   -changed foley
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-30**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-4-1**] 02:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2137-3-31**] 03:45 PM
   Other medications:
   Metoprolol
   ISS
   Pantoprazole
   Phenytoin
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Sleeping, non-verbal at baseline
   Flowsheet Data as of  [**2137-4-1**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.3
   HR: 106 (104 - 126) bpm
   BP: 143/96(105) {116/61(75) - 177/103(118)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 22 (16 - 27)mmHg
   Total In:
                                                                  2,110 mL
                                                                  1,088 mL
   PO:
   TF: (at goal of 20/hr)
                                                                     80 mL
                                                                     91 mL
   IVF:
                                                                  1,270 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    750 mL
   Urine:
                                                                  2,075 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     35 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% on 2L
   ABG: ///25/
   Physical Examination
   PeriphGeneral Appearance: tachypneic, grunting, sleeping
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, MM dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Tachypneic, with accessory muscle use, pronounced
   expiratory wheeze
   Abdominal: Moderate distention, bowel sounds hypoactive, erythema
   around surgical site, no increased warmth or drainage.
   Extremities: Right: Edema Trace, Left: Trace, contracted feet
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Does not respond to comands, some groaning/grunting, moving
   all extremities.
   Labs / Radiology
   254 K/uL
   10.6 g/dL
   154 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   21 mg/dL
   110 mEq/L
   143 mEq/L
   31.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2137-3-29**]  05:05 PM
                             [**2137-3-29**]  07:20 PM
                             [**2137-3-30**]  01:11 AM
                             [**2137-3-30**]  05:16 AM
                             [**2137-3-30**]  02:47 PM
                             [**2137-3-30**]  10:00 PM
                             [**2137-3-31**]  03:52 AM
                             [**2137-3-31**]  03:50 PM
                             [**2137-4-1**]  12:00 AM
                             [**2137-4-1**]  04:00 AM
   WBC
   15.5
   13.8
   12.5
   11.8
   Hct
   32.9
   35.9
   33.7
   34.1
   31.8
   30.4
   30.9
   33.3
   29.4
   31.0
   Plt
   297
   278
   249
   254
   Cr
   1.1
   1.1
   0.8
   Glucose
   121
   80
   154
   Other labs: PT / PTT / INR:16.9/31.2/1.5, Ca++:8.0 mg/dL, Mg++:2.3
   mg/dL, PO4:2.5 mg/dL
   CXR [**4-1**]:
   IMPRESSION:
   Interval placement of right internal jugular central venous catheter.
   Catheter
   tip is likely within the right atrium, although obscured by overlying
   radiopaque spinal fixator rod.
   No pneumothorax is appreciated, although the right hemithorax is again
   not
   well seen secondary to congenital scoliosis.
   Patchy airspace opacities involving the left lung. Diagnostic
   considerations
   include pulmonary edema. Pneumonia is not excluded.
   Assessment and Plan
   32 year old woman with hx of mental retardation secondary to Retts
   syndrome, gastrocutaneous fistula s/p ex-lap and takedown now with
   hypotension and acute Hct drop. ICU course complicated by tachycardia,
   relative hypoxia.
   #Tachycardia.  Ddx includes pain, anxiety, PE, infection, dehydration
   -Have increased dilaudid to increased pain control
   -BB TID per surgical recs, d/w them end point for this medication.
   -supplemental 02 PRN
   -continue pneumoboots for DVT ppx.
   # BP: Initial hypotension post-op has resolved. Likely from acute blood
   loss in or around her gastrostomy site complicated by oversedated. No
   evidence of more distal GI bleeding.  Also on ddx for hypotension
   include sepsis, sources include surgical, urine, lungs.  CXR/CT without
   evidence for PNA, PE.  Now pt hypertensive and tachycardic.  In setting
   of wheeze with 02 requirement, tachycardia and hypertension most likely
   is fluid overload, pain and anxiety are also on differential but less
   likely as pt is sleeping apparently comfortably. PE and sepsis unlikely
   given pt is hypertensive, not hypotensive, elevated CVPs.
   - CVP monitoring (range of 16-25)
   - CXR this am poor qualitiy given rotation and presence of hardware,
   however there is suggestion of pulmonary edema.
   - Will diurese with lasix goal negative >1L, if pt
s symptoms to not
   improve will pursue placement of peripheral access and CTA with PE
   protocol to definitively rule out PE.
   # Acute blood loss anemia: Likely from acute blood loss in or around
   gastrostomy site.
   - Continue to follow with surgery
   - Hct improved wtih 3 units of pRBCs, stable
   - Will continue to trend HCT daily
   - Guaiac stool x 3
   # Gastrocutaneous fistula: Restarted TF yesterday with low goal of
   20/hour, at goal with low residuals in setting of hypoactive BS, hold
   for residuals
   - continue TF and TPN for now.
   - Continue to follow with surgery
   - Pain control with prn dilaudid.
   #UTI.  Pt had positive UA, cultures grew yeast while on vanc/zosyn.
   -- Blood cultures x4 NGTD, urine cx with yeast 10-100,000 organisms on
   two samples with a positive UA.
   -continue to cover broadly for infection with zosyn for urine and
   possible abdominal pathogen in post-operative setting
   -consider narrowing to CTX pending blood culture data to cover for 7
   day course UTI, will d/w surgery team today.
   -Foley changed.
   # Seizure Disorder: no evidence of active seizures. On Lamictal at
   home, was changed to dilantin as not able to have TF
   - Continue phenytoin until able to use G-tube again at which time will
   return to prior regimen of lamictal
   - Phenytoin level was subtherapeutic on [**3-29**], recheck today is in
   therapeutic range.  [**Month (only) 60**] need to increase dose, or if G-tube functioning
   can restart lamictal.
   ICU Care
   Nutrition:
   NPO for now, TPN and  TF
   Glycemic Control: ISS
   Lines:
   Multi Lumen - [**2137-3-29**] 04:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:Possible callout to surgery after diuresis/CTA

2137-04-01 09:47:00 Physician Attending Progress Note
Chief Complaint: tachycardia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   32 yo female with Rett's syndrome s/p ex-lap for gastrocut fistula,
   post op course complicated by acute worsening of anemia,
   tachycardia/hypotension
   24 Hour Events:
   Continued tachycardia; increased dialudid
   Restarted Tf's, tolerating
   Foley dc'd
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: severe MR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-30**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-4-1**] 02:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2137-3-31**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-1**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.5
C (97.7
   HR: 93 (93 - 126) bpm
   BP: 156/99(111) {116/61(75) - 177/103(118)} mmHg
   RR: 33 (15 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 20 (16 - 24)mmHg
   Total In:
                                                                  2,110 mL
                                                                  1,408 mL
   PO:
   TF:
                                                                     80 mL
                                                                    120 mL
   IVF:
                                                                  1,270 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    895 mL
   Urine:
                                                                  2,075 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     35 mL
                                                                    513 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal, No(t) Distant,
   No(t) Loud, No(t) Widely split , No(t) Fixed), No(t) S3, No(t) S4,
   No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Percussion: No(t) Resonant : , No(t)
   Hyperresonant: , No(t) Dullness : ), (Breath Sounds: No(t) Clear : ,
   No(t) Crackles : , No(t) Bronchial: , Wheezes : diffuse scattered exp
   wheezes, No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   tachypneic
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, No(t) Obese, feeding tube
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   254 K/uL
   154 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   21 mg/dL
   110 mEq/L
   143 mEq/L
   31.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2137-3-29**]  05:05 PM
                             [**2137-3-29**]  07:20 PM
                             [**2137-3-30**]  01:11 AM
                             [**2137-3-30**]  05:16 AM
                             [**2137-3-30**]  02:47 PM
                             [**2137-3-30**]  10:00 PM
                             [**2137-3-31**]  03:52 AM
                             [**2137-3-31**]  03:50 PM
                             [**2137-4-1**]  12:00 AM
                             [**2137-4-1**]  04:00 AM
   WBC
   15.5
   13.8
   12.5
   11.8
   Hct
   32.9
   35.9
   33.7
   34.1
   31.8
   30.4
   30.9
   33.3
   29.4
   31.0
   Plt
   297
   278
   249
   254
   Cr
   1.1
   1.1
   0.8
   Glucose
   121
   80
   154
   Other labs: PT / PTT / INR:16.9/31.2/1.5, Ca++:8.0 mg/dL, Mg++:2.3
   mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: Cardiomegaly, increased pulmed
   Assessment and Plan
   32 yo female with Rett's syndrome s/p gastrocut fistula; post op course
   complicated by blood loss anemia/hypotension/tachycardia
   #Tachycardia: Cause unclear- no clear infectious source. Other
   possibilities: pain/anxiety. Volume overload more recently.
   #Resp distress: Has some volume overload given wheezing/positive fluid
   balance. Will diurese and check Echo. PE not fully ruled out - will
   pursue CTA
   #Anemia: no changes in Hct. Recheck later today
   #gastrocut fistula repair: post op care per Surgery
   #UTI: Foley changed.
   #Seizure disorder: on dilantin until able to tolerate lamicta
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2137-3-31**] 06:00 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-3-29**] 04:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-04-02 06:49:00 Physician Resident Progress Note
Chief Complaint: 32 year old woman with hx of mental retardation
   secondary to Retts syndrome, gastrocutaneous fistula s/p ex-lap and
   takedown now with hypotension and acute Hct drop now stable .
   24 Hour Events:
   - Unable to get CTA to rule out PE as no peripheral access ([**Doctor First Name 458**] tried
   with US as well)
   - Amylase/Lipase not elevated
   - TF increased to 30cc/hr per [**Doctor First Name 458**] recs
   - PM Hct stable at 33.4
   - Ordered for TTE, done this morning
   - Portable abd xray to eval for ileus, poor study, non-specific bowel
   gas pattern
   - CVP around 20 in am, rec'd one dose IV Lasix with good response;
   patient with increased RR later, CVP down to 10 in the evening, around
   1L negative, lungs sounded clear, patient appeared comfortable with HR
   less than 100 so no acute intervention
   - HR improved, has remained hypertensive, RR in the 30s but satting
   well on 1-2L NC to RA, no apparent distress
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-3-30**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-4-2**] 02:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2137-4-1**] 10:00 AM
   Pantoprazole (Protonix) - [**2137-4-1**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-2**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.4
   HR: 99 (82 - 106) bpm
   BP: 158/96(121) {151/76(96) - 169/106(121)} mmHg
   RR: 21 (21 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 4 (4 - 27)mmHg
   Total In:
                                                                  3,357 mL
                                                                    901 mL
   PO:
   TF:
                                                                    462 mL
                                                                    188 mL
   IVF:
                                                                    875 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  4,525 mL
                                                                    940 mL
   Urine:
                                                                  4,525 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,168 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   PeriphGeneral Appearance: tachypneic, grunting, sleeping
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, MM dry
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: Tachypneic, with accessory muscle use, pronounced
   expiratory wheeze
   Abdominal: Distended, bowel sounds hypoactive, no apparent TTP,
   erythema around surgical site, no increased warmth or drainage.
   Extremities: Right: Edema Trace, Left: Trace, contracted feet
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Does not respond to comands, some groaning/grunting, moving
   all extremities.
   Labs / Radiology
   289 K/uL
   11.4 g/dL
   168 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.1 mEq/L
   30 mg/dL
   105 mEq/L
   142 mEq/L
   33.9 %
   11.4 K/uL
        [image002.jpg]
   Phenytoin 11.1
                             [**2137-3-30**]  01:11 AM
                             [**2137-3-30**]  05:16 AM
                             [**2137-3-30**]  02:47 PM
                             [**2137-3-30**]  10:00 PM
                             [**2137-3-31**]  03:52 AM
                             [**2137-3-31**]  03:50 PM
                             [**2137-4-1**]  12:00 AM
                             [**2137-4-1**]  04:00 AM
                             [**2137-4-1**]  03:43 PM
                             [**2137-4-2**]  03:28 AM
   WBC
   15.5
   13.8
   12.5
   11.8
   11.4
   Hct
   33.7
   34.1
   31.8
   30.4
   30.9
   33.3
   29.4
   31.0
   33.4
   33.9
   Plt
   297
   278
   249
   254
   289
   Cr
   1.1
   1.1
   0.8
   0.8
   Glucose
   121
   80
   154
   168
   Other labs: PT / PTT / INR:16.9/31.2/1.5, ALT / AST:30/26, Alk Phos / T
   Bili:98/1.4, Amylase / Lipase:54/62, Albumin:2.5 g/dL, LDH:305 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: Portable abdomen:
   IMPRESSION:
   Paucity of bowel gas. The finding represents a nonspecific bowel gas
   pattern.  Close clinical followup is recommended.
   Microbiology: Urine cx [**3-30**]: >100,000 yeast
   Blood cx x4: NGTD
   All other micro: NG
   Assessment and Plan
   32 year old woman with hx of mental retardation secondary to Retts
   syndrome, gastrocutaneous fistula s/p ex-lap and takedown now with
   hypotension and acute Hct drop. ICU course complicated by tachycardia,
   relative hypoxia.
   # Respiratory distress: Patient has been breathing with a rate in the
   30s over the last 24 hours.  Unclear what the patient
s baseline RR
   is.  She does not appear to be in any acute distress, is arousable and
   satting well on 1-2L NC (approximately 94% on RA).   Uncontrolled pain
   is on the differential given tachycardia and hypertension, though she
   has resp rates persistently in the 30s with sleep.  CXR this morning
   with significant rotation, difficult to interpret.  CVP at this time is
   around 14. Has been diuresing well after one time dose of lasix
   yesterday am.  Patient has wheezing on exam (primarily upper airway
   sounding), and no evidence of rales.
   - Will check ABG, IV dilaudid for pain control
   - Will give nebulizer treatment given wheeze on exam
   - Will plan for CTA today.  Will re-attempt PIV access and if unable,
   will speak with IR vs PICC team to get mid-line for contrast
   administration
   - Lasix prn if no improvement with the above
   - Will continue to monitor in the ICU for now
   # Tachycardia.  Ddx includes pain, anxiety, PE, infection, dehydration
   - TTE performed today to evaluate for any valvular or wall motion
   abnormalities and pump function as no baseline cardiac function in the
   patient
s records
   -Have increased dilaudid to improve pain control with good effect.  Was
   changed to PO this morning, but unclear if patient is absorbing
   medications via her G-tube at this point. Will change back to IV for
   now.
   -BB TID per surgical recs, will discuss end-point for BB with surgery
   today
   -Supplemental 02 PRN
   -Continue pneumoboots for DVT ppx.
   -Plan for CTA as above.
   # BP: Initial hypotension post-op has resolved. Likely from acute blood
   loss in or around her gastrostomy site complicated by oversedated. No
   evidence of more distal GI bleeding.  Also on ddx for hypotension
   include sepsis, sources include surgical, urine, lungs.
   CXR/non-dedicated CT without evidence for PNA, PE.  Now pt hypertensive
   and tachycardic.  In setting of wheeze with 02 requirement, thought to
   be due to volume overload and patient was given lasix x1 yesterday
   making her 1L negative and decreasing CVP.  Patient still with
   hypertension and tachycardia though slightly improved.  Pain and
   anxiety are highest on the differential at this point for her
   hypertension and tachycardia.
   - CVP monitoring
   - Follow CXR
   - As not improved with diuresis, will plan for CTA today in conjunction
   with surgeons as above to rule out PE
   - Continue pain control, difficult to assess anxiety and patient had
   been quite sedation in the past with pain medication; can consider
   addition of ativan if CTA negative and no improvement on above regimen.
   # Acute blood loss anemia: Likely from acute blood loss in or around
   gastrostomy site.
   - Continue to follow with surgery
   - Hct has been stable over the last 24 hours after 3 units of pRBCs
   - Monitor Hct daily now
   - Guaiac stool x 3
   # Gastrocutaneous fistula: Restarted TF with low goal of 20/hour and
   increased to 30cc/hr.  No recent residual checks, and patient
s abdomen
   has become more distended.  Also, no recently documented bowel
   movements.
   - Check residuals over the day today with low threshold to discontinue
   TF if high
   - Bowel regimen including colace, senna, dulcolax if no recent bowel
   movements
   - Continue TF and TPN for now.
   - Continue to follow with surgery
   - Pain control with prn dilaudid avoiding sedation.
   #UTI.  Pt had positive UA, cultures grew yeast while on vanc/zosyn.
   - Blood cultures x4 NGTD, urine cx with yeast 10-100,000 organisms on
   two samples with a positive UA.
   -Continue to cover broadly for infection with zosyn for urine and
   possible abdominal pathogen in post-operative setting, today is day 5.
   -Foley changed.
   # Seizure Disorder: no evidence of active seizures. On Lamictal at
   home, was changed to dilantin as not able to have TF
   - Continue phenytoin for now, will discuss returning to prior regimen
   of lamictal
   - Phenytoin level therapeutic, on high end when correcting for
   albumin.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2137-4-1**] 05:53 PM 75 mL/hour
   Replete ([**12-14**]) - [**2137-4-2**] 01:35 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2137-3-29**] 04:27 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending resolution of respiratory distress

2137-04-02 10:41:00 Physician Attending Progress Note
Chief Complaint: Blood loss postop- hct stabilized. Now resp distress,
   tachypnea predominate.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   32 yo female with Rett's syndrome s/p gastrocut fistula; post op course
   complicated by blood loss anemia/hypotension/tachycardia. On zosyn for
   intraabdominal infection related to fistula.
   24 Hour Events:
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-4-2**] 02:07 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-4-1**] 07:40 PM
   Hydromorphone (Dilaudid) - [**2137-4-2**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-4-2**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.3
C (97.3
   HR: 102 (82 - 105) bpm
   BP: 164/103(117) {150/76(96) - 173/110(121)} mmHg
   RR: 33 (21 - 41) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 17 (4 - 27)mmHg
   Total In:
                                                                  3,357 mL
                                                                  1,594 mL
   PO:
   TF:
                                                                    462 mL
                                                                    248 mL
   IVF:
                                                                    875 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                  4,525 mL
                                                                  1,610 mL
   Urine:
                                                                  4,525 mL
                                                                  1,610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,168 mL
                                                                    -16 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Anxious, tachypneic to rr 40s, wheezing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : left, Wheezes : right)
   Abdominal: Soft, Non-tender, Bowel sounds present, hypoactive bs, tight
   abd muscl with active exhalation
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   289 K/uL
   168 mg/dL
   0.8 mg/dL
   27 mEq/L
    3.1 mEq/L
   30 mg/dL
   105 mEq/L
   142 mEq/L
   33.9 %
   11.4 K/uL
        [image002.jpg]
                             [**2137-3-30**]  01:11 AM
                             [**2137-3-30**]  05:16 AM
                             [**2137-3-30**]  02:47 PM
                             [**2137-3-30**]  10:00 PM
                             [**2137-3-31**]  03:52 AM
                             [**2137-3-31**]  03:50 PM
                             [**2137-4-1**]  12:00 AM
                             [**2137-4-1**]  04:00 AM
                             [**2137-4-1**]  03:43 PM
                             [**2137-4-2**]  03:28 AM
   WBC
   15.5
   13.8
   12.5
   11.8
   11.4
   Hct
   33.7
   34.1
   31.8
   30.4
   30.9
   33.3
   29.4
   31.0
   33.4
   33.9
   Plt
   297
   278
   249
   254
   289
   Cr
   1.1
   1.1
   0.8
   0.8
   Glucose
   121
   80
   154
   168
   Other labs: PT / PTT / INR:16.9/31.2/1.5, ALT / AST:30/26, Alk Phos / T
   Bili:98/1.4, Amylase / Lipase:54/62, Albumin:2.5 g/dL, LDH:305 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Current issues: resp distress, tachycardia, hypertension, exp wheezing.
   Echo result pending. CTA once peripheral IV access obtained. Will try
   empiric nebs and low dose morphine now- no known h/o pulm dysfunction.
   Will check VBG to eval poss resp fatigue.
   #Anemia: no changes in Hct.
   #gastrocut fistula repair: post op care per Surgery. Tolerating TF
   #UTI: Foley changed.
   #Seizure disorder: on dilantin until able to tolerate lamictal
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2137-4-2**] 07:51 AM 75 mL/hour
   Comments: TF at 30cc/h
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2137-3-29**] 04:27 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill with respiratory distress.